US05663437
In the first step, 4,4'-dinitro-2-biphenylamine is reacted with benzoyl chloride in the presence of 4-dimethylamine pyridine in N-methyl-2-pyrrolidinone (NMP) to give 2-(N-benzoylimino)-4,4'-dinitrobiphenyl. The hydrogenation of the latter in N,N-dimethylacetamide (DMAc) at room temperature with 10% Pd/C as a catalyst provides the desired 2-(N-benzoylimino)-4,4'-diaminobiphenyl.

reactant | 4,4'-dinitro-2-biphenylamine | [N+](=O)([O-])C=1C=C(C(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H9N3O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylamine pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 2-(N-benzoylimino)-4,4'-dinitrobiphenyl | C(C1=CC=CC=C1)(=O)N=C1C(=CC=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C19H13N3O5
